US06720320B2
(S)-4-glycidyloxy-2-(4,4-dimethyloxazolin-2-yl)benzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(4,4-dimethyloxazolin-2-yl)-4-hydroxybenzo(b)furan (1.50 g), (S)-glycidyl nosylate (1.68 g) and potassium carbonate (2.69 g), a crude product of the title compound was quantitatively obtained as a pale-yellow oil.

reactant | 2-(4,4-dimethyloxazolin-2-yl)-4-hydroxybenzo(b)furan | 1.50 g | CC1(N=C(OC1)C1=CC2=C(O1)C=CC=C2O)C | C13H13NO3
reactant | (S)-glycidyl nosylate | 1.68 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 2.69 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-4-glycidyloxy-2-(4,4-dimethyloxazolin-2-yl)benzo(b)furan | C([C@@H]1CO1)OC1=CC=CC=2OC(=CC21)C=2OCC(N2)(C)C | C16H17NO4
